US08222416B2
A mixture of AD-mix-α (7.06 g) and methanesulfonyl amide (479 mg, 5.03 mmol) in tert-butyl alcohol/water (1:1 v/v, 160 mL) was stirred at 25° C. until it became a clear solution. The solution was then cooled to 0° C. and then a solution of 5-allyl-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine (1.5 g, 5.03 mmol) in tert-butyl alcohol/water (1:1 v/v, 80 mL) was slowly added. The mixture was stirred at 0° C. for 12 h. Sodium sulfite (7.6 g, 60.4 mmol) was then added at 25° C. and the mixture was stirred for 30 min until all of the salt was dissolved. The mixture was extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford a stereoisomeric mixture 3-(1-benzenesulfonyl-pyrrolo[2,3-b]pyridine-5-yl)-propane-1,2-diol as a white solid (1.68 g, quant.) which was used in the next step without purification: LC/MS m/e calcd for C16H16N2O4S2 [M+H]+ 333.38, observed 333.0.

reactant | AD-mix-α | 7.06 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonyl amide | 5.03 mmol, 479 mg | CS(=O)(=O)[NH-]
reactant | 5-allyl-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine | 5.03 mmol, 1.5 g | C(C=C)C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C16H14N2O2S
reactant | Sodium sulfite | 60.4 mmol, 7.6 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tert-butyl alcohol water | 160 mL | C(C)(C)(C)O.O
solvent | tert-butyl alcohol water | 80 mL | C(C)(C)(C)O.O
product | 3-(1-benzenesulfonyl-pyrrolo[2,3-b]pyridine-5-yl)-propane-1,2-diol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)CC(CO)O | C16H16N2O4S
